US06187774B1
To a solution of 6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine in acetonitrile are added aqueous formaldehyde solution and 2,2-dimethyl-1,3-dioxane-4,6-dione with stirring and the mixture is heated for 4 hours. After the completion of the reaction, the reaction mixture is poured into water and the mixture is extracted with chloroform, washed with water, and dried over magnesium sulfate. The solution is concentrated under reduced pressure and the resulting 2,2-dimethyl-5-(6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-ylmethyl)-1,3-dioxane-4,6-dione is dissolved in pyridine with sting. Water and copper powder are added and the mixture is refluxed under heating for 3 hours. After the completion of the reaction, the reaction mixture is filtered while it is hot and the solvent is evaporated under reduced pressure to give 3-(6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl)propionic acid. To a solution of this compound in dimethylformamide are added 4-(4-chlorophenyl)piperidine, triethylamine and cyanophosphonic acid diester and the mixture is stirred at room temperature. After the completion of the reaction, the reaction mixture is poured into water and the mixture is extracted with chloroform, washed with water, and dried over magnesium sulfate. The solution is concentrated under reduced pressure and the resulting 1-(4-(4-chlorophenyl)piperidin-1-yl)-3-(6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl)propan-1-one is dissolved in tetrahydrofuran and lithium aluminum hydride is added under ice-cooling with stirring and the mixture is stirred at room temperature for 1 hour. After the completion of the reaction, the reaction mixture is poured into water and the mixture is extracted with chloroform, washed with water, and dried over magnesium sulfate. The solution is concentrated under reduced pressure and the obtained residue is subjected to silica gel column chromatography to give 3-(3-(4-(4-chlorophenyl)piperidin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine.

reactant | 6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine | N=1C=CN2C1CCCCC2 | C8H12N2
reactant | formaldehyde | C=O | CH2O
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl)propionic acid | N=1C=C(N2C1CCCCC2)CCC(=O)O | C11H16N2O2
